US09278938B2
4-Formylimidazole (11.7 g, 121.8 mmol) and acetonitrile (59 mL) were charged, and triethylamine (13.6 g, 133.9 mml) was added thereto at 30° C. or below. And then, a solution of benzenesulfonyl chloride (23.7 g, 133.9 mmol) in THF (35 mL) was added dropwise thereto at 30° C. or below, and the mixture was stirred at room temperature for 1 hr or more. After the reaction, water (94 mL) was added dropwise thereto at 30° C. or below for crystallization, and the mixture was stirred at room temperature for 1 hr or more, cooled to 10° C. or below, and stirred for 1 hr or more. The obtained crystals were collected by filtration, and washed with a mixed solvent (35 mL) of acetonitrile/water (1:2, volume ratio). The obtained wet crystals were dried under reduced pressure at an outside temperature of 50° C. to give 1-(phenylsulfonyl)-4-formyl-1H-imidazole (20.0 g, 84.7 mmol). yield 70%.

reactant | 4-Formylimidazole | 121.8 mmol, 11.7 g | C(=O)C=1N=CNC1 | C4H4N2O
reactant | acetonitrile | 59 mL | C(C)#N | C2H3N
reactant | triethylamine | 13.6 g | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 133.9 mmol, 23.7 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | water | 94 mL | O | H2O
product | 1-(phenylsulfonyl)-4-formyl-1H-imidazole | 84.7 mmol, 20.0 g, yield 70% | C1(=CC=CC=C1)S(=O)(=O)N1C=NC(=C1)C=O | C10H8N2O3S
